US07153878B2
4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde
To a solution of oxalyl chloride (2.0M/DCM, 3.52 mL, 7.04 mmloe) in DCM (50 mL), is injected DMSO (0.998 mL, 14.1 mmole) and stirred for 15 minute at −78° C. A solution of [4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol (1.59 g, 5.86 mmole) in DCM (10 mL) is then added. After stirred for 30 minutes, triethyl amine (4.08 mL, 29.3 mmole) is added. The reaction is kept at −78° C. for another 30 minutes, then warmed up to room temperature for 2 hours, washed with brine (3×50 mL), dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography (silica gel, 10% ethyl acetate in hexane) and concentrated to provide the titled compound as a white solid. Mass [EI+] 270 (M+H)+.

reactant | oxalyl chloride | 2.0M, 3.52 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 14.1 mmole, 0.998 mL | CS(=O)C | C2H6OS
reactant | [4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | 5.86 mmole, 1.59 g | C(C)C=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
reactant | triethyl amine | 29.3 mmole, 4.08 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde | C(C)C=1N=C(OC1C=O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2
